US05145483
Preparation of 2-(N-benzyloxycarbonylamino) -5-nitrophenol
3.58 moles (536 ml) of benzyl chloroformate (95%) are added in the course of 45 minutes to 3.25 moles (500 g) of 2-amino-5-nitrophenol and 204.5 g of calcium carbonate in 1.5 liter of dioxane brought to 70° C., the temperature being maintained at between 70° C. and 80° C. When the addition is complete, heating is maintained for a further 30 minutes. The inorganic salts present in the reaction medium are removed by filtration while hot. After the addition of ice-cold water to the filtrate, the expected product crystallizes. After filtration and drying, the product obtained is recrystallized from acetic acid. It melts at 200° C.

reactant | benzyl chloroformate | 3.58 moles, 536 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 2-amino-5-nitrophenol | 500 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | calcium carbonate | 204.5 g | C([O-])([O-])=O.[Ca+2]
solvent | dioxane | 1.5 liter | O1CCOCC1 | C4H8O2
product | 2-(N-benzyloxycarbonylamino) -5-nitrophenol | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O | C14H12N2O5
